US07160875B2
c) (RS)-7-Amino-5H,7H-dibenzo[b,d]azepin-6-one
To a solution of 0.1 g (0.29 mmol) (RS)-7-amino-5-(4-methoxy-benzyl)-5H,7H-dibenzo[b,d]azepin-6-one in 8 ml of dichloromethane at 0° C. temperature 0.67 ml (8.7 mmol) of trifluoroacetic acid and 0.25 ml of trifluoromethansulfonic acid (2.9 mmol) were added and the mixture was stirred for 4 hours at room temperature. After concentration of the mixture at 40° C. in vacuo an aqueous NaHCO3 solution was added and the mixture extracted two times with ethyl acetate. The combined organic layers were dried (MgSO4). After evaporation of the solvent a light yellow oil was obtained, that was used directly in the next step.

reactant | (RS)-7-amino-5-(4-methoxy-benzyl)-5H,7H-dibenzo[b,d]azepin-6-one | 0.29 mmol, 0.1 g | NC1C2=C(C3=C(N(C1=O)CC1=CC=C(C=C1)OC)C=CC=C3)C=CC=C2 | C22H20N2O2
reactant | trifluoroacetic acid | 8.7 mmol, 0.67 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoromethansulfonic acid | 2.9 mmol, 0.25 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (RS)-7-Amino-5H,7H-dibenzo[b,d]azepin-6-one | NC1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C14H12N2O
